US07001904B1
N-(2-dimethylaminoethyl)-N′-(2,6-dimethylphenyl)-N″-(7-hydroxy-6-methoxyquinazolin-4-yl)guanidine
Using an analogous procedure to that described in Example 10, N-(7-benzyloxy-6-methoxyquinazolin-4-yl)-N′-(2-dimethylaminoethyl)-N″-(2,6-dimethylphenyl)guanidine was reacted with trifluoroacetic acid to give the title compound in 68% yield; NMR Spectrum: (DMSOd6, 100° C.) 2.22 (s, 6H), 2.26 (s, 6H), 2.55 (t, 2H), 3.6 (t, 2H), 3.79 (s, 3H), 6.99 (s, 1H), 7.17 (s, 3H), 7.6 (s, 1H), 8.39 (s, 1H), 9.4 (br s, 1H), 10.8 (br s, 1H); Mass Spectrum: M+H+ 409.

reactant | N-(7-benzyloxy-6-methoxyquinazolin-4-yl)-N′-(2-dimethylaminoethyl)-N″-(2,6-dimethylphenyl)guanidine | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC(=NC1=C(C=CC=C1C)C)NCCN(C)C)OC | C29H34N6O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N-(2-dimethylaminoethyl)-N′-(2,6-dimethylphenyl)-N″-(7-hydroxy-6-methoxyquinazolin-4-yl)guanidine | 68% yield | CN(CCNC(=NC1=NC=NC2=CC(=C(C=C12)OC)O)NC1=C(C=CC=C1C)C)C | C22H28N6O2
